US05093370
1,4-Bis(6-triethylammoniohexyl)-2-nitrobenzene diiodide
First, 600 mg of 1,4-bis(6-diethylaminohexyl)-2-nitrobenzene was dissolved in 7 ml of absolute ethanol, and after adding 2.18 g of ethyl iodide at a room temperature with stirring, the mixture was refluxed for 3 hours and then cooled. The reaction mixture was evaporated under a reduced pressure, diluted with 3 ml of acetone, and after adding 1 ml of ethyl acetate allowed to stand in a freezer overnight. Resulting crystal was collected by filtration, washed with acetone/ethyl acetate (1:1), and dried under a reduced pressure to obtain 555 mg of the title compound as a pale yellow crystal.

reactant | 1,4-bis(6-diethylaminohexyl)-2-nitrobenzene | 600 mg | C(C)N(CCCCCCC1=C(C=C(C=C1)CCCCCCN(CC)CC)[N+](=O)[O-])CC | C26H47N3O2
reactant | ethyl iodide | 2.18 g | C(C)I | C2H5I
reactant | ethanol | 7 ml | C(C)O | C2H6O
product | 1,4-Bis(6-triethylammoniohexyl)-2-nitrobenzene diiodide | 555 mg | [I-].[I-].C(C)[N+](CCCCCCC1=C(C=C(C=C1)CCCCCC[N+](CC)(CC)CC)[N+](=O)[O-])(CC)CC | InChI=1S/C30H57N3O2.2HI/c1-7-32(8-2,9-3)25-19-15-13-17-21-28-23-24-29(30(27-28)31(34)35)22-18-14-16-20-26-33(10-4,11-5)12-6;;/h23-24,27H,7-22,25-26H2,1-6H3;2*1H/q+2;;/p-2
